US07842688B2
f) Methyl 2-(3-methoxypropyl)-3H-benzoimidazole-4-carboxylate
A solution of 4 g of methyl 2,3-diaminobenzoate and 8.53 g of 4-methoxybutyric acid in 70 ml of 4N HCl is stirred at reflux over 21 hours. The reaction mixture is cooled to room temperature and partitioned between ethyl acetate and water. The aqueous phase is concentrated by evaporation—the residue is diluted with 100 ml of methanol and 2 ml of conc. H2SO4 and stirred at reflux over 45 hours. The reaction mixture is cooled to room temperature, neutralized with saturated aqueous sodium bicarbonate solution and concentrated by evaporation. The residue is diluted with water and extracted with ethyl acetate (2×)—the combined organic phases are dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a red solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.31 (95:5 dichloromethane-methanol); Rt=2.53.

reactant | methyl 2,3-diaminobenzoate | 4 g | NC1=C(C(=O)OC)C=CC=C1N | C8H10N2O2
reactant | 4-methoxybutyric acid | 8.53 g | COCCCC(=O)O | C5H10O3
solvent | HCl | 4N, 70 ml | Cl | ClH
product | Methyl 2-(3-methoxypropyl)-3H-benzoimidazole-4-carboxylate | COCCCC=1NC2=C(N1)C=CC=C2C(=O)OC | C13H16N2O3
